US06172057B2
2-(4-Methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-pent-4-ynoic acid hydroxyamide was prepared according to the method as outlined in Example 1. Starting from 2-(4-methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-pent-4-ynoic acid (0.29 g, 0.81 mmol) and hydroxylamine hydrochloride (0.70 m, 10 mmol), 0.065 g of the product was isolated. Yield 25%; off-white solid; mp 70° C.; MS: 375.0 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 1.19 (brs, 1H), 2.90-3.00 (m, 2H), 3.55 (d, J=13.8 Hz, 1H), 3.67 (d, J=13.8 Hz, 1H), 3.89 (s, 3H), 7.18 (d, J=9.0 Hz, 2H), 7.75 (d, J=9.0 Hz, 2H), 7.80-7.89 (m, 1H), 8.35-8.40 (m, 1H), 8.70-8.80 (m, 2H), 11.1 (brs, 1H); IR (KBr, cm−1): 3168 m, 3095 s, 1670 m, 1593 s.

reactant | 2-(4-methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-pent-4-ynoic acid | 0.81 mmol, 0.29 g | COC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC#C)CC=1C=NC=CC1 | C18H17NO5S
reactant | hydroxylamine hydrochloride | 10 mmol | Cl.NO
product | 2-(4-Methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-pent-4-ynoic acid hydroxyamide | Yield 25% | ONC(C(CC#C)(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C18H18N2O5S
